US07019029B2
Non-limiting examples of known compounds useful for the present invention wherein one R (R1) is H and the other (R2) is a substituted or unsubstituted phenyl group include 3,4-dihydroxy-5-phenyl-2(5H)-furanone (sometimes called 4-phenyl-2-hydroxytetronic acid); 3,4-dihydroxy-5-(4′-chlorophenyl)-2(5H)-furanone (sometimes called 4-(4′-chlorophenyl)-2-hydroxytetronic acid); 3,4-dihydroxy-5-(1′,2′-dihydroxyethyl)-2(5H)-furanone (sometimes called 4-dihydroxyethyl-2-hydroxytetronic acid); 3,4-dihydroxy-5-(4′methylpropylphenyl)-2(5H)-furanone; and 3,4-dihydroxy-5-[4-(5-methylfur)-2-yl)phenyl]-2(5H)-furanone. As mentioned above, a subgroup bearing these substituents include compounds wherein R1 is H and R2 is a phenyl bearing another phenyl, forming a biphenyl, such as 3,4-dihydroxy-5-(1,1′-biphenyl)-2(5H)-furanone (sometimes called 4-biphenyl-2-hydroxytetronic acid); 3,4-dihydroxy-5-(4″-chlorobiphenyl)-2(5H)-furanone (sometimes called 4-chloro-biphe-nyl)-2-hydroxytetronic acid); 3,4-dihydroxy-5-[(4′-nitro-1,1′-biphenyl)-4-yl]-2(5H)-furanone; 3,4-dihydroxy-5-[(4′-methyl-1,1′-biphenyl)-4-yl]-2(5H)-furanone; 3,4-dihydroxy-5-[(2′,4′-dimethyl-1,1′-biphenyl)-4-yl]-2(5H)-furanone; 3,4-dihydroxy-5-[(3′,4′-dimethyl-1,1′-biphenyl)-4-yl]-2(5H)-furanone; and 3,4-dihydroxy-5-[(4′-meth-oxy-1,1′-biphenyl)-4-yl]-2(5H)-furanone. In another subgroup of compounds, R1 is H and R2 is a phenyl substituted with a heteroaromatic (furyl or pyridyl) group such as, for example, 3,4-dihydroxy-5-[4-(5-methylfur)-2-yl)phenyl]-2(5H)-furanone; 3,4-dihydroxy-5-[4-(5-methylpyrid)-2-yl)phenyl]-2(5H)-furanone; 3,4-dihydroxy-5-[4-(3-methylpyrid)-2-yl)phenyl]-2(5H)-furanone; 3,4-dihydroxy-5-[4-(4-methylpyrid)-2-yl)phenyl]-2(5H)-furanone; 3,4-dihydroxy-5-[4-(4-methylpyrid)-3-yl)phenyl]-2(5H)-furanone; 3,4-dihydroxy-5-[4-(5-methylpyrid)-3-yl)phenyl]-2(5H)-furanone; and 3,4-dihydroxy-5-[4-(2-methylpyrid)-3-yl)phenyl]-2(5H)-furanone.

reactant | 3,4-dihydroxy-5-phenyl-2(5H)-furanone | OC=1C(OC(C1O)C1=CC=CC=C1)=O | C10H8O4
reactant | 3,4-dihydroxy-5-(4′-chlorophenyl)-2(5H)-furanone | OC=1C(OC(C1O)C1=CC=C(C=C1)Cl)=O | C10H7ClO4
reactant | 3,4-dihydroxy-5-(1′,2′-dihydroxyethyl)-2(5H)-furanone | OC=1C(OC(C1O)C(CO)O)=O | C6H8O6
reactant | 3,4-dihydroxy-5-(4′methylpropylphenyl)-2(5H)-furanone | OC=1C(OC(C1O)C1=C(C=C(C=C1)C)CCC)=O | C14H16O4
reactant | 2(5H)-furanone | O1C(C=CC1)=O | C4H4O2
product | biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
